US08013187B2
A mixture of 120 mg 3-cyclopentyl-2-iodo-2-cyclopenten-1-one, 80 mg 3-formylphenylboronic acid and 20 mg tetrakis(triphenylphosphine)palladium was stirred at 80° C. overnight in 8 ml toluene, 4 ml ethanol and 4 ml 2 N aqueous sodium carbonate. Then the reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography (silica gel, hexane/ethyl acetate=2:1) to yield 70 mg of 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one. 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one in benzene was stirred with one drop of acetic acid and 100 mg sodium triacetoxyborohydride at 70-80° C. for 2 hours. Then the reaction mixture was poured into saturated aqueous ammonium chloride, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography (silica gel, hexane/ethyl acetate=2:1) to yield 40 mg of 3-cyclopentyl-2-(3-hydroxymethylphenyl)-2-cyclopenten-1-one, which was then condensed with hydroxylamine hydrochloride according to a procedure similar to that described in STEP 4 for Example 1 to afford 20 mg of 3-cyclopentyl-2-(3-hydroxymethylphenyl)-2-cyclopenten-1-one oxime as a solid. 1H NMR (CDCl3, 300 MHz): δ 8.75 (bs, 1H), 7.40-7.29 (m, 3H), 7.12 (d, J=7.2 Hz, 1H), 4.66 (s, 2H), 2.98 (m, 1H), 2.75 (m, 2H), 2.61 (m, 2H), 1.71 (m, 4H), 1.55 (m, 4H).

reactant | 3-cyclopentyl-2-(3-formylphenyl)-2-cyclopenten-1-one | C1(CCCC1)C1=C(C(CC1)=O)C1=CC(=CC=C1)C=O | C17H18O2
reactant | sodium triacetoxyborohydride | 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | 3-cyclopentyl-2-(3-hydroxymethylphenyl)-2-cyclopenten-1-one | 40 mg | C1(CCCC1)C1=C(C(CC1)=O)C1=CC(=CC=C1)CO | C17H20O2
